US04374062
In each case 4.0 grams of degassed N-acetyl-glycyl-dehydrophenylalanine were suspended in 75 ml ethanol and treated with 5.0 ml of an ethanolic solution which contained per ml 4 mg of catalyst. The hydrogenation was undertaken at 25° C. After the end of the reaction time in each case the reaction vessel was ventilated and the solvent removed under reduce pressure. In all cases there remained in the form of a white crystal mass in practically quantitative yield crude N-acetyl-glycyl-phenylalanine. The reaction conditions and results are collected in Table II

reactant | N-acetyl-glycyl-dehydrophenylalanine | 4.0 grams | C(C)(=O)NCC(=O)NC(=CC1=CC=CC=C1)C(=O)O | C13H14N2O4
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N-acetyl-glycyl-phenylalanine | quantitative yield | C(C)(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C13H16N2O4
